US05447657
A solution of 0.95 g of 4'-fluoro-4-[[4-(methoxymethylidene)cyclohexyl]ethynyl]biphenyl in 40 ml of toluene was treated with 4 ml of formic acid and stirred at room temperature overnight. The formic acid phase was separated and the toluene phase was washed neutral with water, dried over sodium sulphate, filtered and concentrated. For the ring isomerization, the resulting crude 4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexanecarboxaldehyde was dissolved in 35 ml of ethanol, treated with 8.2 ml of 0.1N alcoholic potassium hydroxide solution and stirred at room temperature for 2 hours. The reaction mixture was diluted with diethyl ether, washed with saturated sodium hydrogen carbonate solution and with water, dried over sodium sulphate, filtered and concentrated. 0.80 g of trans-4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexanecarboxaldehyde was obtained.

reactant | 4'-fluoro-4-[[4-(methoxymethylidene)cyclohexyl]ethynyl]biphenyl | 0.95 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C#CC1CCC(CC1)=COC | C22H21FO
reactant | formic acid | 4 ml | C(=O)O | CH2O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | trans-4-[(4'-fluoro-4-biphenylyl)ethynyl]cyclohexanecarboxaldehyde | 0.80 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C#C[C@@H]1CC[C@H](CC1)C=O | C21H19FO
